US08835465B2
6-Fluoro-N-methoxy-N-methylnicotinamide
To a solution of 6-fluoronicotinic acid (10 g, 70.9 mmol) in DCM (200 ml), was added N,O-Dimethylhydroxylamine hydrochloride (7.3 g, 74.8 mmol), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (15 g, 78.5 mmol), and triethylamine (22 ml, 156 mmol). The reaction mixture was allowed to stir at room temperature for 16 hours. The reaction was partitioned with water, layers were cut, and organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue obtained was purified by a silica gel filtration using EtOAc-DCM (4:1) to give 7.2 g (55% isolated yield) of the title compound. 1H NMR: 8.48 (s, 1H) 8.21 (t, J=8.29 Hz, 1H) 7.27 (dd, J=8.29, 3.01 Hz, 1H) 3.54 (s, 3H) 3.27 (s, 3H).

reactant | 6-fluoronicotinic acid | 70.9 mmol, 10 g | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | N,O-Dimethylhydroxylamine hydrochloride | 74.8 mmol, 7.3 g | Cl.CNOC
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 78.5 mmol, 15 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 156 mmol, 22 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-Fluoro-N-methoxy-N-methylnicotinamide | FC1=NC=C(C(=O)N(C)OC)C=C1 | C8H9FN2O2
